US08247403B2
(2) 9-(tetrahydrofuran-3-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(tetrahydrofuran-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (430 mg, 1.35 mmol), ethyl acetate (2 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (320 mg, 92.8%) as a solid.

reactant | tert-butyl 9-(tetrahydrofuran-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.35 mmol, 430 mg | O1CC(CC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C18H25NO4
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 9-(tetrahydrofuran-3-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 320 mg, 92.8% | Cl.O1CC(CC1)C1=CC=CC=2CNCCOC21 | InChI=1S/C13H17NO2.ClH/c1-2-10-8-14-5-7-16-13(10)12(3-1)11-4-6-15-9-11;/h1-3,11,14H,4-9H2;1H
